US05554607
1-Ethyl-2-thioxo-3-(2-trifluoromethylphenyl)-imidazolidin-4-one.
The title compound was prepared by the procedure described in Example 19 using 9.2 g of N-ethyl glycine, 10.2 g of 2-(trifluoromethyl)-phenyl-isothiocyanate, 10.1 g of triethylamine, and 150 mL of methylene chloride. The residue was further purified by flash chromatography on silica gel (methylene chloride). Crystallization from ethanol afforded the title compound (2.7 g), m.p. 82°-85° C. Anal. Calcd. for. C12H11F3N2O S: C, 50.00; H, 3.85; N,9.72. Found: C, 50.00; H, 3.61; N, 9.61. Mass spectrum (EI, M.+) m/z 288.

reactant | N-ethyl glycine | 9.2 g | C(C)NCC(=O)O | C4H9NO2
reactant | 2-(trifluoromethyl)-phenyl-isothiocyanate | 10.2 g | FC(C1=C(C=CC=C1)N=C=S)(F)F | C8H4F3NS
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-Ethyl-2-thioxo-3-(2-trifluoromethylphenyl)-imidazolidin-4-one | 2.7 g | C(C)N1C(N(C(C1)=O)C1=C(C=CC=C1)C(F)(F)F)=S | C12H11F3N2OS
